US04208331
(S)-(-)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-methanol
A mixture of 0.55 g. (2.33 mmol) of (S)-(+)-6-hydroxy-2,5,7,8-tetramethylchroman-2-methanol, 790 mg. (5.72 mmol) of anhydrous K2CO3, 0.68 ml. (748 mg; 5.93 mmol) of benzyl chloride (distilled from and stored over K2CO3) and 4.5 ml. of DMF was stirred for 22 hrs. at room temperature then poured into H2O and worked up with ether in the usual manner. There was obtained 0.89 g. of a yellow oily product which was chromatographed on silica gel (35 g.). Elution with 19:1 and 9:1 benzene-ethyl acetate gae 724 mg. (97.1%) of (S)-(-)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-methanol as a colorless solid, mp 66°-69.5°; [α]25D-2.35° (c 1.2, CHCl3).

reactant | (S)-(+)-6-hydroxy-2,5,7,8-tetramethylchroman-2-methanol | 2.33 mmol | OC=1C(=C2CC[C@](OC2=C(C1C)C)(CO)C)C | C14H20O3
reactant | K2CO3 | 5.72 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl chloride | 5.93 mmol, 748 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | H2O | O | H2O
product | (S)-(-)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-methanol | C(C1=CC=CC=C1)OC=1C(=C2CC[C@](OC2=C(C1C)C)(CO)C)C | C21H26O3
